US05912244
6-(4-Hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (5.799 g) (see Preparation 8) was dissolved in dry dimethylformamide (12 ml) and imidazole (2.768 g) and tert-butyidimethylsilyl chloride (2.923 g) were added. The flask was fitted with a calcium chloride drying tube and the mixture was stirred at 40° C. for 18 hours. The solvent was then removed under reduced pressure and the residue was partitioned between aqueous sodium bicarbonate solution and dichloromethane. The organic layer was dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the crude product chromatographed on silica using 1:1 hexane: dichloromethane as the eluent to yield 6-(4-tert-butyldimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (6.681 g) as an oil. LRMS m/z=413 (m+1)+.

reactant | 6-(4-Hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 5.799 g | OC1=CC=C(C=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C18H18O2S
reactant | imidazole | 2.768 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyidimethylsilyl chloride | 2.923 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 6-(4-tert-butyldimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 6.681 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C24H32O2SSi
